US04743617
The crude mesylate thus obtained was immediately taken up in 200 ml DMF, potassium phthalimide (14.44 g, (0.078 mole) was added, and the mixture was stirred at 25°-30° C. for 45 min. Completion of the reaction was judged by tracking the presence of starting material by tlc (20% ethylacetate/hexane). The reaction mixture was partitioned between water and dichloromethane, and the dichloromethane layer was dried over K2CO3 and concentrated to a brown semi-solid. This material was dissolved in ether, washed with water, decolorized again with carbon, dried over K2CO3, and filtered and concentrated. The resulting pale yellow solid was recrystallized from hexane/ethyl acetate to provide a total of 3.89 g (20%) phthalimide.

reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | phthalimide | 3.89 g, 20% | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
